US07439371B2
Preparation 2: (2-Oxo-2,3-dihydro-1H-indol-6-ylsulfanyl)-benzoic acid
CuI (40 mg, 0.05 mmol), potassium carbonate (1.66 g, 12 mmol), 6-iodooxindole (as prepared in Preparation 1; 1.0 g, 4.0 mmol) and 2-mercapto-benzoic acid (0.62 g, 4.0 mmol) were added to a dry schlenk tube. The tube was evacuated and refilled with Ar(g) (3 times). 2-Propanol (5.0 mL) and ethylene glycol (0.5 mL, 8.0 mmol) were injected into the schlenk tube. The schlenk tube was sealed with a teflon valve and was heated to 80° C. and stirred for over 24 hours. Subsequently the reaction mixture was allowed to reach room temperature then diluted with EtOAc (10 mL) and water (10 mL). The mixture was acidified of to a pH=3-4 with the addition of 1 M HCl(aq) and the organics were separated and set aside. The aqueous phase was washed with additional EtOAc (10 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo affording a yellow solid. The solid was then purified via flash silica gel chromatography (gradient eluant starting with 5% MeOH in CHCl3 increasing to 10% MeOH in CHCl3) affording the title compound as a pale yellow solid (0.228 g, 0.77 mmol, 20% yield).

reactant | potassium carbonate | 12 mmol, 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-iodooxindole | 4.0 mmol, 1.0 g | IC1=CC=C2CC(NC2=C1)=O | C8H6INO
reactant | 2-mercapto-benzoic acid | 4.0 mmol, 0.62 g | SC1=C(C(=O)O)C=CC=C1 | C7H6O2S
reactant | ethylene glycol | 8.0 mmol, 0.5 mL | C(CO)O | C2H6O2
reactant | HCl | 1 M | Cl | ClH
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | CuI | 0.05 mmol, 40 mg | [Cu]I
solvent | 2-Propanol | 5.0 mL | CC(C)O | C3H8O
product | (2-Oxo-2,3-dihydro-1H-indol-6-ylsulfanyl)-benzoic acid | 0.77 mmol, 0.228 g, 20% yield | O=C1NC2=CC(=CC=C2C1)SC1=C(C(=O)O)C=CC=C1 | C15H11NO3S
